*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/3.90e-02[uF]/50[V]
* Murata P/N :GRT155R71H393KE01
* Property : C = 3.90e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71H393KE01 Port1 Port2
C01 Port1 N01 3.85e-08
R01 Port1 N01 1.00e+09
L02 N01 N02 1.79e-10
R03 N02 N03 2.71e-02
C04 N03 N04 4.91e-06
R04 N03 N04 8.11e+02
C05 N04 N05 7.79e-06
R05 N04 N05 1.35e+02
C06 N05 N06 5.07e-06
R06 N05 N06 2.75e+01
C07 N06 N07 4.40e-06
R07 N06 N07 3.23e+00
C08 N07 N08 3.55e-06
R08 N07 N08 4.02e-01
C09 N08 N09 3.47e-06
R09 N08 N09 5.79e-02
C10 N09 N10 3.48e-06
R10 N09 N10 1.71e-02
L11 N10 N11 5.42e-11
R11 N10 N11 2.54e+00
L12 N11 N12 7.35e-11
R12 N11 N12 1.28e-01
C13 N12 N13 2.52e-07
L13 N12 N13 1.21e-11
R13 N12 N13 1.45e-02
C14 N13 N14 3.55e-08
L14 N13 N14 3.40e-11
R14 N13 N14 3.64e-02
C15 N14 Port2 2.03e-10
L15 N14 Port2 1.62e-11
R15 N14 Port2 3.10e-01
.ENDS GRT155R71H393KE01
